US06479637B1
Synthesis of Fluorescein-hemoglobin Conjugate (FL-Hb)
5-Iodoacetamido fluorescein (5-IAF, 11 mg, 21 μmol) solution in N,N-dimethylformamide (DMF, 50 μL) was slowly added to oxyhemoglobin (60 mg/mL, 5 mL) in 50 mM potassium phosphate pH 7.0 with stirring at 4° C. After three hours of reaction at 4° C., the excess of 5-IAF was removed by extensive dialysis against 50 mM potassium phosphate pH 7.2 until no 5-IAF could be detected in the dialysate. The UV-visible absortion spectrum of the product showed a characteristic fluorescein absorption band at 496 nm.

reactant | 5-Iodoacetamido fluorescein | 21 μmol, 11 mg | C1=CC(=C(C=C1NC(=O)CI)C(=O)O)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O | C22H14INO6
solvent | N,N-dimethylformamide | 50 μL | CN(C=O)C | C3H7NO
solvent | potassium phosphate | 50 mM, pH 7.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
